US04971990
(2) 2-(5-Fluoro-2-methoxyphenoxy)acetaldehyde
To a solution of 23.0 g of 2-(5-fluoro-2-methoxyphenoxy)acetaldehyde diethylacetal in 130 ml of acetone were added 100 ml of 10% aqueous oxalic acid and the mixture was refluxed for 2 hours. After cooling, the reaction mixture was evaporated, and the residue was diluted with water and extracted with ether. The extract was washed with water, dried and evaporated. Isopropyl ether was added to the residue and the precipitate was filtered to give 4.99 g of the desired compound as pale brown crystals, which were recrystallized from a mixture of isopropanol and isopropyl ether as pale brown crystals, m.p. 92.5°-95° C.

reactant | 2-(5-fluoro-2-methoxyphenoxy)acetaldehyde diethylacetal | 23.0 g | C(C)OC(COC1=C(C=CC(=C1)F)OC)OCC | C13H19FO4
reactant | oxalic acid | 100 ml | C(C(=O)O)(=O)O | C2H2O4
solvent | acetone | 130 ml | CC(=O)C | C3H6O
product | 2-(5-Fluoro-2-methoxyphenoxy)acetaldehyde | 4.99 g | FC=1C=CC(=C(OCC=O)C1)OC | C9H9FO3
